US08314088B2
N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride
To a solution of 8-benzyl-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine (50 mg) in methanol (4 mL) was added 20% Pd(OH)2/C (10 mg), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 2 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (2 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (44 μL), and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (27 mg, 65%) as a colorless powder.

reactant | 8-benzyl-N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine | 50 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N(CCC)C | C18H24N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 44 μL | C(C)(=O)OCC.Cl
solvent | methanol | 4 mL | CO | CH4O
catalyst | Pd(OH)2/C | 10 mg | [OH-].[OH-].[Pd+2]
product | N-methyl-N-propyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepin-3-amine hydrochloride | 27 mg, 65% | Cl.CN(C1=NC2=C(CNCCO2)N=C1)CCC | InChI=1S/C11H18N4O.ClH/c1-3-5-15(2)10-8-13-9-7-12-4-6-16-11(9)14-10;/h8,12H,3-7H2,1-2H3;1H
